US04246021
Concentrated hydrochloric acid (1.0 ml) was added to a stirred suspension of 3,4-dichlorobenzaldehyde (140 g) in a mixture of trimethyl orthoformate (94 g) and dry methanol (400 ml). After stirring for 24 hours at laboratory temperature (about 25° C.), the reaction solution was adjusted to pH 7-8 by the addition of a solution of sodium methoxide in methanol and concentrated on a rotary evaporator. The residual oil was then dissolved in diethyl ether (600 ml). The ethereal solution was washed with water until the washings were neutral and then dried over anhydrous sodium sulphate, filtered and distilled to give 3,4-dichlorobenzaldehyde dimethyl acetal (157.5 g). b.p. 137°-140° C./25 mm Hg, as a clear mobile oil.

reactant | hydrochloric acid | 1.0 ml | Cl | ClH
reactant | 3,4-dichlorobenzaldehyde | 140 g | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | sodium methoxide | C[O-].[Na+]
reactant | trimethyl orthoformate | 94 g | C(OC)(OC)OC | C4H10O3
solvent | methanol | CO | CH4O
solvent | methanol | 400 ml | CO | CH4O
product | 3,4-dichlorobenzaldehyde dimethyl acetal | 157.5 g | COC(C1=CC(=C(C=C1)Cl)Cl)OC | C9H10Cl2O2
